US04496720
50 ml of hexane and 48 mg (0.1 mmole) of tetraphenyl imidodiphosphate were added to a solution of 2.56 g (20 mmoles) of 1-phenyl-5-mercapto-1H-tetrazole in 5 ml of hexamethylphosphoric triamide and the mixture was refluxed while 8.3 ml (40 mmoles) of hexamethyldisilazane were added whereupon a precipitate was formed. After addition of 25 ml of ethyl acetate, refluxing was continued for 2 hours and then the mixture was evaporated to dryness at 40° C. under oil pump vacuum. The 1-phenyl-5-trimethylsilylthio-1H-tetrazole thus obtained was dissolved in 45 ml of acetonitrile and then, 4.75 g (22 mmoles) of 4-nitrobenzyl bromide were added to the solution which immediately resulted in the formation of a precipitate. After stirring for 15 minutes at room temperature, the mixture was evaporated and the residue was dissolved in a mixture of 50 ml of water and 50 ml of ethyl acetate. The ethyl acetate layer was separated, washed three times with 10 ml of water, dried, filtered and evaporated to dryness. The residue was crystallized from 80 ml of 1:1 mixture of ethyl acetate and heptane to obtain 4.23 g (67.6% yield) of 1-phenyl-5-(4-nitrobenzyl)-thio-1H-tetrazole melting at 153°-154° C.

reactant | hexane | 50 ml | CCCCCC | C6H14
reactant | tetraphenyl imidodiphosphate | 0.1 mmole, 48 mg | O(P(OC1=CC=CC=C1)(=O)NP(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1)C1=CC=CC=C1 | C24H21NO6P2
reactant | 1-phenyl-5-mercapto-1H-tetrazole | 20 mmoles, 2.56 g | C1(=CC=CC=C1)N1N=NN=C1S | C7H6N4S
reactant | hexamethyldisilazane | 40 mmoles, 8.3 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | hexamethylphosphoric triamide | 5 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 1-phenyl-5-trimethylsilylthio-1H-tetrazole | C1(=CC=CC=C1)N1N=NN=C1S[Si](C)(C)C | C10H14N4SSi
